US05310634
(4) 3-(Methoxycarbonylamino)-4-nitroso-N,N-diethylaniline
While stirring a mixture of 6.0 g of 3-(methoxycarbonylamino)-N,N-diethylaniline, 10 ml of water, and 2.0 ml of concentrated hydrochloric acid at 0° C, 2.0 g of sodium nitrite was added to the mixture. When the first crystals were deposited in the mixture, 50 ml of water was further added to the mixture followed by stirring for 30 minutes. Thereafter, the reaction mixture obtained was poured into 300 ml of water followed by stirring well, neutralized by the addition of sodium bicarbonate, and extracted with ethyl acetate. After washing with water, the extract was dried by Glauber's salt and the solvent was distilled off using an evaporator to provide a yellow-green oily product. The crude product was purified by silica gel chromatography to provide 6.7 g (yield: 98%) of a product as a green solid.

reactant | 3-(methoxycarbonylamino)-N,N-diethylaniline | 6.0 g | COC(=O)NC=1C=C(N(CC)CC)C=CC1 | C12H18N2O2
reactant | hydrochloric acid | 2.0 ml | Cl | ClH
reactant | sodium nitrite | 2.0 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 300 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 3-(Methoxycarbonylamino)-4-nitroso-N,N-diethylaniline | 6.7 g, yield: 98% | COC(=O)NC=1C=C(N(CC)CC)C=CC1N=O | C12H17N3O3
